US07943795B2
H. 6-{1-[4-(3,3-Dimethyl-2-oxobutoxy)-3-methylphenyl]-1-ethylpropyl}naphthalene-2-carboxylic acid methyl ester
Stir a mixture containing 6-[1-ethyl-1-(4-hydroxy-3-methylphenyl)propyl]naphthalene-2-carboxylic acid methyl ester (0.87 g, 2.40 mmol), 1-bromopinacolone (0.64 g, 3.60 mmol), and potassium carbonate (1.0 g, 7.2 mmol) in acetone (15 mL) at RT for 16 h. Concentrate the reaction mixture and dilute the residue with EtOAc (100 mL) and water (50 mL). Adjust the pH of the mixture to 1 using 1 N HCl. Discard the aqueous layer and wash the organic layer with brine, dry over Na2SO4, then filter. Concentrate the filtrate and purify by silica gel radial chromatography (5:95 EtOAc:hex to 15:85 EtoAc:hex) to give the title compound as an off-white solid (0.53 g, 48%). MS (ES) m/e 461 (M+1).

reactant | 6-[1-ethyl-1-(4-hydroxy-3-methylphenyl)propyl]naphthalene-2-carboxylic acid methyl ester | 2.40 mmol, 0.87 g | COC(=O)C1=CC2=CC=C(C=C2C=C1)C(CC)(C1=CC(=C(C=C1)O)C)CC | C24H26O3
reactant | 1-bromopinacolone | 3.60 mmol, 0.64 g | BrCC(C(C)(C)C)=O | C6H11BrO
reactant | potassium carbonate | 7.2 mmol, 1.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 15 mL | CC(=O)C | C3H6O
product | 6-{1-[4-(3,3-Dimethyl-2-oxobutoxy)-3-methylphenyl]-1-ethylpropyl}naphthalene-2-carboxylic acid methyl ester | 0.53 g, 48% | COC(=O)C1=CC2=CC=C(C=C2C=C1)C(CC)(CC)C1=CC(=C(C=C1)OCC(C(C)(C)C)=O)C | C30H36O4
